US08809525B2
6-(3,5-Dichlorophenyl)-5-phenyl-1,2,4-triazin-3-amine (130 mg, 34%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.30 g, 1.19 mmol) and 3,5-dichlorophenylboronic acid (0.42 g, 2.19 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.19 mmol, 0.30 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,5-dichlorophenylboronic acid | 2.19 mmol, 0.42 g | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | 6-(3,5-Dichlorophenyl)-5-phenyl-1,2,4-triazin-3-amine | 130 mg, 34% | ClC=1C=C(C=C(C1)Cl)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H10Cl2N4
